US06057369
A mixture of Methyl 2-chloro-3-(3-phenylpropyl-1-yl)-1-cyclopentenecarboxylate (0.2 g, 0.72 mmol), 3,4-dimethoxythiophenol (0.12 g, 0.72 mmol) and potassium carbonate (0.1 g, 0.72 mmol) in methanol (20 mL) is heated under reflux for 6 hours. After standing at room temperature for 2 days, the mixture is heated under reflux for another 4 hours. The mixture is poured into water and is extracted with ether. The organic layer is washed with water and is dried over MgSO4. The solvent is removed in vacuo and the residue is chromatographed on silica gel (4:1 hexane:ethyl acetate) to provide methyl 2-[(3,4-dimethoxyphenyl)thio]-3-(3-phenylpropyl-1-yl)-1-cyclopentenecarboxylate (0.17 g, 58%): 1H-NMR (300 MHz, CDCl3) δ (TMS) 1.10-1.70 (m, 5H), 1.88-1.98 (m, 1H), 2.31-2.40 (t, 3H), 2.58-2.70 (t, 3H), 3.78 (s, 3H), 3.84 (s, 3H), 3.90 (s, 3H), 6.68-6.75 (d, 1H), 6.95-7.09 (m, 4H), 7.17-7.30 (m, 3H); MS (EI) m/e 412 (M+).

reactant | Methyl 2-chloro-3-(3-phenylpropyl-1-yl)-1-cyclopentenecarboxylate | 0.72 mmol, 0.2 g | ClC1=C(CCC1=CCCC1=CC=CC=C1)C(=O)OC | C16H17ClO2
reactant | 3,4-dimethoxythiophenol | 0.72 mmol, 0.12 g | COC=1C=C(C=CC1OC)S | C8H10O2S
reactant | potassium carbonate | 0.72 mmol, 0.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | methyl 2-[(3,4-dimethoxyphenyl)thio]-3-(3-phenylpropyl-1-yl)-1-cyclopentenecarboxylate | 0.17 g, 58% | COC=1C=C(C=CC1OC)SC1=C(CCC1=CCCC1=CC=CC=C1)C(=O)OC | C24H26O4S
